Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
aspirin / Iodinated Contrast Media - IV Dye
 
Attending: ___.
 
Chief Complaint:
abdominal pain, nausea
 
Major Surgical or Invasive Procedure:
ERCP ___
Large duodenal diverticulum 
The bile duct was deeply cannulated with the sphincterotome. 
Contrast was injected and there was brisk flow through the 
ducts. Contrast extended to the entire biliary tree. 
The CBD was 15mm in diameter. Two large filling defects 
consistent with stones were identified in the CBD and CHD. 
The left and right hepatic ducts and all intrahepatic branches 
were normal. 
A limited (due to elevated INR) biliary sphincterotomy was made 
with a sphincterotome. 
A sphincteroplasty was then performed with a 12-15mm CRE balloon 
up to 15mm to facilitate stone extraction. 
The biliary tree was swept with a 12-15mm balloon starting at 
the bifurcation. Two stones were removed. 
The CBD and CHD were swept repeatedly until no further stones 
were seen. 
The final occlusion cholangiogram showed no evidence of filling 
defects in the CBD. 
Excellent bile and contrast drainage was seen endoscopically and 
fluoroscopically. 
Otherwise normal ercp to third part of the duodenum
 
Recommendations: NPO overnight with aggressive IV hydration with 
LR at 200 cc/hr 
If no abdominal pain in the morning, advance diet to clear 
liquids and then advance as tolerated 
No aspirin, Plavix, NSAIDS, Coumadin for 5 days. 
Continue with antibiotics - Ciprofloxacin 500mg BID x 5 days. 
Follow for response and complications. If any abdominal pain, 
fever, jaundice, gastrointestinal bleeding please call ERCP 
fellow on call ___
 

 
History of Present Illness:
___ year old woman with anxiety disorder, osteoporosis, chronic 
back pain s/p multiple fusion surgeries, GERD complicated by 
strictures, who is s/p CCY for billiary colic who presents with 
abdominal pain from her assisted living facility. Pt had 
abdominal pain for one day prior to presentation but no nausea 
or vomiting. Her appetite has been poor. She has had off and on 
diarrhea for many months, reports watery stools as well. She was 
also febrile to 101. Labs were checked at her facilty which 
revealed hyperbilirubinemia, so she was sent to the ED for 
evaluation. 

In the ED, here pt hemodynamically stable and was initially 
febrile to 101.8. Labs notable for mild transaminitis, Alk P 
___, Tbili 4.9 and lipase of 2497. She had cultures drawn and 
was given a dose of Unasyn 3gm for presumed cholangitis. RUQ u/s 
done in the ED shwed intra and extrahepatic billiary dilatation 
but no definite stone. She was admitted for further care. 

ROS: started on bactrim for dysuria and UTI dx on ___ 
otherwise negative except as noted above
 
Past Medical History:
1.  Anxiety with a history of panic attacks, depression.  The
patient was hospitalized around the time of her husband's death
for a "mental breakdown" according to her daughter and also had
ECT therapy at that time.  She also has a history of bipolar
disorder.
2.  Obesity.
4.  Hypertension.
5.  Osteoporosis.
6.  Gastroesophageal reflux disease with history of esophageal
stricture.  The patient requires dilation of her esophagus every
6 to 12 months.  This is typically done by Dr. ___ at ___.
7.  Hypothyroidism.
8.  Degenerative joint disease.
9.  Urinary incontinence.  The patient does wear pads.
10.  Vitamin D deficiency.
11.  Status post bilateral knee replacements, status post total
fixation for hammertoes, status post right hip replacement,
status post cholecystectomy, status post hysterectomy, status
post appendectomy.
12.  History of cardiac arrest in her ___ after given IV
contrast.
 
Social History:
___
Family History:
Mother died of colon CA.
 
Physical Exam:
Admission:
Vitals: Tmax 101.8 Tc 98.7 100/55 93 18 93%RA
Gen: NAD
HEENT: scleral icterus, dry mm
CV: rrr, no r/m/g
Pulm: clear b/l
Abd: soft, tender in RUQ, distended, +bs
Ext: no edema
Neuro: alert and oriented x 3

afeb, VSS 
 Cons: NAD, sitting up in bed
left EJ -no drainage, no cord, no edema, nontender, no erythema
 Eyes: EOMI, no scleral icterus  
 ENT: MMM  
 Cardiovasc: rrr, no murmur, no edema  
 Resp: CTA B  
 GI: +bs,soft, nt, nd 
 MSK: no significant kyphosis  
 Skin: no rashes  
 Neuro: no facial droop  
 Psych: anxious
 
Pertinent Results:
Labs on Admission:
___ 06:15PM   WBC-10.4 RBC-3.94* HGB-12.3 HCT-38.9 MCV-99* 
MCH-31.3 MCHC-31.7 RDW-14.6
___ 06:15PM   PLT COUNT-180
___ 06:15PM   NEUTS-80.9* LYMPHS-12.9* MONOS-4.3 EOS-1.7 
BASOS-0.3
___ 06:15PM   GLUCOSE-99 UREA N-13 CREAT-0.8 SODIUM-137 
POTASSIUM-3.9 CHLORIDE-98 TOTAL CO2-28 ANION GAP-15
___ 06:15PM   ALT(SGPT)-44* AST(SGOT)-78* ALK PHOS-871* TOT 
BILI-4.9* DIR BILI-4.0* INDIR BIL-0.9
___ 06:15PM   LIPASE-2497*
___ 06:15PM   ALBUMIN-3.7
___ 06:30PM   LACTATE-1.5
___ 06:15PM   ___ PTT-40.4* ___

___ 06:15AM BLOOD WBC-6.7 RBC-3.58* Hgb-11.3* Hct-34.6* 
MCV-97 MCH-31.6 MCHC-32.7 RDW-14.1 Plt ___
___ 06:15AM BLOOD WBC-5.8 RBC-3.44* Hgb-10.8* Hct-33.9* 
MCV-99* MCH-31.4 MCHC-31.9 RDW-14.3 Plt ___
___ 08:00PM BLOOD ALT-43* AST-78* AlkPhos-790* TotBili-2.8*

RUQ u/s: 
Moderate intra and extrahepatic biliary duct dilatation without 
cause 
identified on this study. Consider MRCP.  No prior for 
comparison status post cholecystectomy. 

ERCP: Large duodenal diverticulum
The bile duct was deeply cannulated with the sphincterotome.
Contrast was injected and there was brisk flow through the 
ducts. Contrast extended to the entire biliary tree.
The CBD was 15mm in diameter. Two large filling defects 
consistent with stones were identified in the CBD and CHD.
The left and right hepatic ducts and all intrahepatic branches 
were normal.
A limited (due to elevated INR) biliary sphincterotomy was made 
with a sphincterotome.
A sphincteroplasty was then performed with a 12-15mm CRE balloon 
up to 15mm to facilitate stone extraction.
The biliary tree was swept with a 12-15mm balloon starting at 
the bifurcation. Two stones were removed.
The CBD and CHD were swept repeatedly until no further stones 
were seen.
The final occlusion cholangiogram showed no evidence of filling 
defects in the CBD.
Excellent bile and contrast drainage was seen endoscopically and 
fluoroscopically.
Otherwise normal ercp to third part of the duodenum
 
Brief Hospital Course:
___ with osteoporosis, chronic back pain, GERD complicated by 
strictures, and billiary colic s/p CCY presenting with abdominal 
pain, fevers, and hyperbilirubinemia from likely cholangitis and 
pancreatitis. 

She underwent ERCP with removal of two stones and 
sphincterotomy. She improve post-procedure with resolution of 
her fevers and pain. Her diet was advanced without 
complications.  She did well while on ciprofloxacin.

Urinary tract infection:
The pt was diagnosed with UTI, treated with ciprofloxacin as 
well.

The pt underwent evaluation and treatment with physical therapy 
due to fatigue with walking, this improved in time. 

The pt also was noted to have fairly severe anxiety, treated 
with her home medications and reassurance. 

The pt was discharged to home long term assisted living 
facility, with a recommendation to follow up with her primary 
care physician.

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Alendronate Sodium 70 mg PO QMON 
2. Atenolol 25 mg PO DAILY 
3. Citalopram 20 mg PO DAILY 
4. ClonazePAM 1 mg PO TID 
5. Divalproex (DELayed Release) 125 mg PO QHS 
6. Furosemide 20 mg PO DAILY 
7. Gabapentin 800 mg PO AT 8 AM AND 2PM 
8. Gabapentin 400 mg PO HS 
9. Levothyroxine Sodium 75 mcg PO 6X/WEEK (___) 
10. Levothyroxine Sodium 125 mcg PO 1X/WEEK (___) 
11. Lovastatin 80  oral daily 
12. Meclizine 12.5 mg PO Q12H:PRN dizziness 
13. Mirtazapine 30 mg PO HS 
14. Omeprazole 20 mg PO DAILY 
15. OxycoDONE (Immediate Release)  10 mg PO Q4H:PRN pain 
16. QUEtiapine Fumarate 100 mg PO TID 
17. QUEtiapine Fumarate 50 mg PO QHS 
18. Sulfameth/Trimethoprim DS 1 TAB PO BID 
19. Calcarb 600 With Vitamin D (calcium carbonate-vitamin D3) 
600 mg(1,500mg) -200 unit oral bid 
20. Vitamin D3 (cholecalciferol (vitamin D3)) 1,000 unit oral 
daily 
21. Docusate Sodium 100 mg PO BID 
22. morphine liposomal (PF) unknown  epidural daily 

 
Discharge Medications:
1. Atenolol 25 mg PO DAILY 
2. Citalopram 20 mg PO DAILY 
3. ClonazePAM 1 mg PO TID 
4. Divalproex (DELayed Release) 125 mg PO QHS 
5. Docusate Sodium 100 mg PO BID 
6. Gabapentin 800 mg PO AT 8 AM AND 2PM 
7. Gabapentin 400 mg PO HS 
8. Levothyroxine Sodium 75 mcg PO 6X/WEEK (___) 
9. Levothyroxine Sodium 125 mcg PO 1X/WEEK (___) 
10. Meclizine 12.5 mg PO Q12H:PRN dizziness 
11. Mirtazapine 30 mg PO HS 
12. Omeprazole 20 mg PO DAILY 
13. OxycoDONE (Immediate Release)  10 mg PO Q4H:PRN pain 
14. QUEtiapine Fumarate 100 mg PO TID 
15. QUEtiapine Fumarate 50 mg PO QHS 
16. Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin [Cipro] 500 mg 1 tablet(s) by mouth twice a 
day until gone Disp #*4 Tablet Refills:*0
17. Alendronate Sodium 70 mg PO QMON 
18. Calcarb 600 With Vitamin D (calcium carbonate-vitamin D3) 
600 mg(1,500mg) -200 unit oral bid 
19. Furosemide 20 mg PO DAILY 
20. Lovastatin 80  oral daily 
21. Vitamin D3 (cholecalciferol (vitamin D3)) 1,000 unit oral 
daily 
22. Venlafaxine XR 75 mg PO DAILY 
23. Divalproex (DELayed Release) 125 mg PO NOON 
24. ClonazePAM 0.5 mg PO DAILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Cholangitis
Acute pancreatitis
Choledocholithiasis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were admitted with abdominal pain and evidence of infection. 
You were treated with a procedure called ERCP and antibiotics. 
With this your abdominal pain resolved and your infection was 
improved. 
You had some soreness at the neck where the external jugular IV 
was placed.  Removal of the IV improved the pain, but it remains 
a little sore in the area.  There is no sign of infection, no 
cords in the neck were palpable, and the pain was clearly 
improving.  No further workup was necessary.  You can continue 
to use a warm compress if that makes the area feel better 
 
Followup Instructions:
___